US03932629
g. 1-isopropyl-5-fluoro-3-hydroxy-1,2,4-triazole
16.2 g of 1-isopropyl-5-chloro-3-hydroxy-1,2,4-triazole, 29 g of dry potassium fluoride and 150 ml of sulpholane are heated together for 16 hours to 160°-200°C. The solvent is evaporated in a high vacuum and the residue then treated with 10 % acetic acid and extracted with ethyl acetate. The ethyl acetate is evaporated off and the residueal solid is recrystallised from water, in the process of which 1-isopropyl-5-fluoro-3-hydroxy-1,2,4-triazole is obtained in the form of white crystals with a melting point of 80°-95°C. The product can be recrystallised from an organic solvent in order to purify it further.

reactant | 1-isopropyl-5-chloro-3-hydroxy-1,2,4-triazole | 16.2 g | C(C)(C)N1N=C(N=C1Cl)O | C5H8ClN3O
reactant | potassium fluoride | 29 g | [F-].[K+]
solvent | sulpholane | 150 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1-isopropyl-5-fluoro-3-hydroxy-1,2,4-triazole | C(C)(C)N1N=C(N=C1F)O | C5H8FN3O
